US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(3,4-dimethoxybenzyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester
The title compound (5.31 g, 81%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (3.26 g, 9.5 mmol) and [4-N-(3,4-dimethoxybenzyloxycarbonyl)-cytosin-1-yl]-acetic acid (3.28 g, 9.03 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 10.72 (s, 1H), 8.27 (dd, 1H), 8.17 (dd, 1H), 7.90 (d, 0.6H), 7.82 (d, 0.4H), 7.69˜7.62 (m, 2H), 7.02 (s, 1H), 7.00 (t, 1H), 6.94 (s, 2H), 5.09 (s, 2H), 4.80 (s, 1.2H), 4.61 (s, 0.8H), 4.34 (s, 0.8H), 4.13 (q, 0.8H), 4.05 (s, 1.2H), 4.03 (q, 1.2H), 3.75 (s, 3H), 3.74 (s, 3H), 3.58 (t, 1.2H), 3.42˜3.37 (m, 2H), 3.20 (t, 0.8H), 1.20 (t, 1.2H), 1.14 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 9.5 mmol, 3.26 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [4-N-(3,4-dimethoxybenzyloxycarbonyl)-cytosin-1-yl]-acetic acid | 9.03 mmol, 3.28 g | COC=1C=C(COC(=O)NC2=NC(N(C=C2)CC(=O)O)=O)C=CC1OC | C16H17N3O7
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[4-N-(3,4-dimethoxybenzyloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester | 5.31 g, 81% | C(C)OC(CN(C(CN1C(=O)N=C(NC(=O)OCC2=CC(=C(C=C2)OC)OC)C=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C29H32N6O10S2
